### PR TITLE
feat(Data/Finite/PermOf): Add an array-based implementation of finite permutations, `PermOf`.

### PR DESCRIPTION
**Pull request by wrenna-robson**
Implements `PermOf`, an array-based implementation of finite permutations/

---

As part of my PhD, I created this implementation. I have more to add to it, but I'm making this relatively small initial commit to exhibit the core definitions before I start building anything elaborate.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finite/PermOf/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,276 @@
...
+/--
+A `PermOf n` is a permutation on `n` elements represented by two vectors, which we can
+think of as an array of values and a corresponding array of indexes which are inverse to
+one another.
+-/
+structure PermOf (n : ℕ) where
+  /--
+  Gives the `PermOf` as an vector of size `n`.
+  -/
+  protected toVector : Vector ℕ n
```
Comment (eric-wieser) [inline Mathlib/Data/Finite/PermOf/Defs.lean:23]: I'd expect this to be a little more convenient as
```suggestion
  protected toVector : Vector (Fin n) n
```
which is the same at runtime anyway

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: This is not my experience - indeed, that is what I started with and it really, really caused some issues and I had to refactor it. It makes recasting it a total pain. Believe me - this is not the way to go.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Like I cannot be clear enough that I think this suggestion would be a colossal error but unfortunately my main evidence is "I've spent a year working with this and trying different methods". Your suggestion is the wrong approach.

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: How about a hybrid approach where you use my definition, but add a `mk'` constructor that uses your inputs? The nice thing about my spelling is that is has very nice defeqs when converting to and from `Equiv.Perm`.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: What would you propose with invVector? One of the advantages of my current approach is that toVector and invVector are symmetrical but you don't need to prove that invVector has the <n quality (it follows as a theorem!)

I do somewhat see the logic of connecting it to Equiv.Perm in this way - because then toVector.get is precisely the toFun in that. The thing is, what I found you want to do is think of them more as members of Equiv.Perm Nat - which is what motivates this approach. (This comes through the MulAction, essentially.)

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: > One of the advantages of my current approach is that toVector and invVector are symmetrical but you don't need to prove that invVector has the <n quality (it follows as a theorem

You can get exactly this same advantage by having a `mk'` wrapper constructor!

File: Mathlib/Data/Finite/PermOf/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,276 @@
...
+
+section Mul
+
+@[simp]
+theorem getElem_mul {i : ℕ} (hi : i < n) :
+    (a * b)[i] = a[b[i]] := Vector.getElem_ofFn _
+
+end Mul
+
+instance : SMul (PermOf n) ℕ where
```
Comment (eric-wieser) [inline Mathlib/Data/Finite/PermOf/Defs.lean:193]: This action seems pretty weird to me; are the semantics of `PermOf` "this is a permutation of n elements", or "this is a permutation of the natural numbers that leaves all but the first n elements unchanged"? I'd argue this belongs as def with type `Perm (Fin n) ->* Perm Nat`

File: Mathlib/Data/Finite/PermOf/Defs.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Yes, indeed - I don't know. I tried doing exactly this months ago and it did genuinely cause more trouble than I thought it would. Also I like, aesthetically, that the data and proofs needed in the core is reasonably minimal.

Perhaps it would help if I shared the repo with some of my constructions that are not in this PR so you can see more of the context of my thinking?

File: Mathlib/Data/Finite/PermOf/Defs.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:193]: It's the latter - "this is a permutation of the natural numbers that only moves the first n".

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:193]: https://github.com/linesthatinterlace/controlbits/blob/master/CBConcrete%2FCBConcrete%2FPermOf%2FMonoidHom.lean

I believe this repo is open but if you look at the `castSucc` and `castPred` maps here you can see that they have very nice definitions in terms of Vector.pop and Vector.push, which would not be possible in the same way with your suggestion. 

Again, I started with the perspective of "these represent permutations on `Fin n`" and it just isn't the right semantics because of the ways I found I naturally wanted to use them. One of the things I found over the course of my work was that bundling in propositions like this too early can cause real headaches.

File: Mathlib/Data/Finite/PermOf/Defs.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: https://github.com/linesthatinterlace/controlbits/blob/master/CBConcrete%2FCBConcrete%2FPermOf%2FMonoidHom.lean

I believe this repo is open but if you look at the castSucc and castPred maps here you can see that they have very nice definitions in terms of Vector.pop and Vector.push, which would not be possible in the same way with your suggestion.

Again, I started with the perspective of "these represent permutations on Fin n" and it just isn't the right semantics because of the ways I found I naturally wanted to use them. One of the things I found over the course of my work was that bundling in propositions like this too early can cause real headaches.

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Thanks for the reference. Here's an implementation of that function with my prospoed spelling:
```
import Mathlib

-- missing lemmas
namespace Vector
variable {n} {α β}

@[simp]
theorem get_push_last (v : Vector α n) (a : α) :
    (v.push a).get (Fin.last n) = a :=
  getElem_push_last

@[simp]
theorem get_push_castSucc (v : Vector α n) (a : α) (i : Fin n) :
    (v.push a).get (Fin.castSucc i) = v.get i :=
  getElem_push_lt _

@[simp]
theorem get_map (v : Vector α n) (f : α → β) (i : Fin n) :
    (v.map f).get i = f (v.get i) :=
  getElem_map _ _

end Vector

/--
A `PermOf n` is a permutation on `n` elements represented by two vectors, which we can
think of as an array of values and a corresponding array of indexes which are inverse to
one another.
-/
structure PermOf (n : ℕ) where
  protected toVector : Vector (Fin n) n
  protected invVector : Vector (Fin n) n
  get_invVector_get_toVector (i : Fin n) : invVector.get (toVector.get i) = i := by decide
  get_toVector_get_invVector (i : Fin n) : toVector.get (invVector.get i) = i := by decide
  deriving DecidableEq

unsafe def mapFinCastSuccAuxUnsafe {n} (v : Vector (Fin n) n) : Vector (Fin (n + 1)) n :=
  -- `Fin n` and `FIn m` have the same representation in the vm
  unsafeCast v

@[implemented_by mapFinCastSuccAuxUnsafe, reducible]
private def mapFinCastSucc {n} (v : Vector (Fin n) n) : Vector (Fin (n + 1)) n :=
  v.map Fin.castSucc

def castSucc {n : ℕ} (a : PermOf n) : PermOf (n + 1) where
  toVector := mapFinCastSucc a.toVector |>.push n
  invVector := mapFinCastSucc a.invVector |>.push n
  get_toVector_get_invVector i := by
    induction i using Fin.lastCases <;> simp [a.get_toVector_get_invVector]
  get_invVector_get_toVector i := by
    induction i using Fin.lastCases <;> simp [a.get_invVector_get_toVector]
```
Note that the proof are actually shorter (though there were a few gaps to plug in mathlib)

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: That's interesting. OK, I find that somewhat persuasive that this might be better in some circumstances, though I have to admit it does still feel clunkier to me. (Separately: is the unsafe cast etc. needed in practice?)

I suppose this does all still come down to whether you think the semantics of PermOf n is a subgroup of Perm N or Perm (Fin n). I favour the former - I think it's more elegant and in practice I'd rather use it - but I see why you argue for the latter. I'm not really sure how to move forward therefore - probably we should get a third opinion on the shape of this bike shed.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Also, does your approach deal well with my minLen/minPerm/FinitePerm construction?

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: > (Separately: is the unsafe cast etc. needed in practice?)

This is here to ensure the runtime performence (in executed code) matches your `Vector.push` version. If you don't care about an extra O(N) runtime cost, you can drop that stuff.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: I do care about that I think given that these are attempting to be as performant as possible. It's an interesting approach therefore. Is there any kind of formal guarantee of the equivalence or is that by definition taken on trust?

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: > I suppose this does all still come down to whether you think the semantics of PermOf n is a subgroup of `Perm N` or `Perm (Fin n)`. I favour the former

I'd argue that your docstring of "A `PermOf n` is a permutation on `n` elements" makes it sound like it is isomorphic to `Perm (Fin n)` in every way. Can you update the docstring to make the intended semantics clearer to aid this third opinion?

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Absolutely, I'll get on that tomorrow. I think you're right that the docstring isn't right for my intended semantics.

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: > Is there any kind of formal guarantee of the equivalence or is that by definition taken on trust?

The latter; but note that the whole array API has this property anyway, since it is not in fact implemented in terms of `List`s as the `structure` suggests.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean:23]: Aye - I think my instinct is to not add to the trusted base if it can be helped and rather use the existing Array (and Vector, but Vector is really just a thin layer on top of Array and I think the same at runtime?) functions.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermOf/Defs.lean]: I've edited the docstring. I've changed the name of the type to `PermLT` to sell that it represents "permutations on Nat that fix greater than or equal to n" semantically. (Open to other suggestions for the name: I thought about Vector.Perm but that is taken.)

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 3]
```diff
@@ -985,7 +985,7 @@ theorem subtypePerm_apply_zpow_of_mem {g : Perm α} {s : Finset α}
 variable [Fintype α] [DecidableEq α]
 
 /-- Restrict a permutation to its support -/
-def subtypePermOfSupport (c : Perm α) : Perm c.support :=
+def subtypePermLTSupport (c : Perm α) : Perm c.support :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:988]: This looks like a bad find and replace.

Comment (linesthatinterlace) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean:988]: Oh yes that's exactly what it is, annoying, sorry.

File: Mathlib/Data/Finite/PermLT/Group.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+
+/-!
+# Group instance for `PermLT`
+-/
+
+namespace PermLT
+
+variable {n m i j : ℕ} {a b : PermLT n}
+
+instance : Group (PermLT n) := Group.ofLeftAxioms
```
Comment (eric-wieser) [inline Mathlib/Data/Finite/PermLT/Group.lean:18]: I think this should be slightly shorter if you pull it back through `PermLT.toPerm`, which surely is a function you want anyway.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: Indeed, I was omitting it from this PR but I can add it in. Could you remind me what the group constructor for pullbacks is?

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean (hunk 3 above)
Comment (linesthatinterlace) [reply Mathlib/GroupTheory/Perm/Cycle/Basic.lean]: Think I've now fixed these.

File: Mathlib/Data/Finite/PermLT/Group.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: Function.Injecrive.group

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: I am not sure this will be quicker, having just tried it out:
```
instance : Group (PermLT n) := Group.ofLeftAxioms
  (fun _ _ _ => ext <| fun i hi => by simp_rw [getElem_mul])
  (fun _ => ext <| fun i hi => by simp_rw [getElem_mul, getElem_one])
  (fun _ => ext <| fun i hi => by simp_rw [getElem_mul, getElem_one, getElem_inv_getElem])

instance : MulAction (PermLT n) ℕ where
  one_smul k := by
    simp_rw [smul_eq_iff, getElem_one, implies_true, and_self]
  mul_smul a b k := by
    rcases lt_or_le k n with hkn | hkn
    · simp_rw [smul_of_lt hkn, smul_getElem, getElem_mul]
    · simp_rw [smul_of_ge hkn]

def toPerm {n : ℕ} : PermLT n →* Equiv.Perm ℕ := MulAction.toPermHom (PermLT n) ℕ
```

This feels really tight to me. Defining toPerm first, we have to prove it maps to a permutation, which otherwise comes from `MulAction.toPermHom` automatically.

Comment (eric-wieser) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: Does that satisfy the defeq `toPerm p n = p.toVector.getD n n`?

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: It doesn't. I have to say I wouldn't have entirely considered that a critical defeq to satisfy.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: It does satisfy `toPerm a n = a[n]?.getD n` which to me is more desirable. I could redefine the SMul if you were really so inclined.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: (`Vector.getD` does not have much useful API defined.)

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: In particular there is a `Array.getD_eq_getD_getElem?` but no `Vector.getD_eq_getD_getElem?`.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: However, I think `toPerm a n = a[n]?.getD n` is the more desirable defeq anyway.

Comment (linesthatinterlace) [reply Mathlib/Data/Finite/PermLT/Group.lean:18]: If one proves `Vector.getD_eq_getD_getElem?`, then the following change suffices:

```
instance : SMul (PermLT n) ℕ where
  smul a i := a.toVector.getD i i

theorem smul_eq_dite (i : ℕ) :
    a • i = if h : i < n then a[i]'h else i :=
  Vector.getD_eq_getD_getElem?.trans (apply_dite (fun (o : Option ℕ) => o.getD i) _ _ _)
```

All other theorems follow from this and you get the defeq that you want. But again I think this is a less good choice.

**Comment by wrenna-robson** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26007
